US06723722B1
1-[1-(4-Pyridyl)-4-piperidinylamino]-4-(4-vinylphenylsulfonyl)-2-piperazinone
1-[1-(4-Pyridyl)-4-piperidinylideneamino]-4-(4-vinylphenylsulfonyl)-2-piperazinone (200 mg) was dissolved in methanol (10 ml), combined with acetic acid (110 mg) with cooling on ice followed by sodium cyanoborohydride (57 mg), and stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was dissolved in dichloromethane, washed with aqueous sodium bicarbonate and brine, dried, concentrated and purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) to obtain the title compound (150 mg) as a colorless amorphous material.

reactant | 1-[1-(4-Pyridyl)-4-piperidinylideneamino]-4-(4-vinylphenylsulfonyl)-2-piperazinone | 200 mg | N1=CC=C(C=C1)N1CCC(CC1)=NN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=C)=O | C22H25N5O3S
reactant | acetic acid | 110 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 57 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-[1-(4-Pyridyl)-4-piperidinylamino]-4-(4-vinylphenylsulfonyl)-2-piperazinone | 150 mg | N1=CC=C(C=C1)N1CCC(CC1)NN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=C)=O | C22H27N5O3S
